US04560692
(a) 6-chloro-2-(4-methylphenyl)-4-quinolinecarboxylic acid
To a suspension of 18.15 g of 5-chloroisatin in 200 ml of ethanol was added 30 ml of 10N sodium hydroxide. To this mixture was added 16 ml (0.12 mol) of p-methylacetophenone, and it was stirred and heated under reflux for 3.2 hr. It was then concentrated in vacuo, and the residue was diluted to 250 ml with water. The above named acid was precipitated by the addition of acetic acid as a tan solid. Recrystallization from acetonitrile gave 31.6 g of the above-named acid as a tan solid.

reactant | 5-chloroisatin | 18.15 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | sodium hydroxide | 10N, 30 ml | [OH-].[Na+]
reactant | p-methylacetophenone | 0.12 mol, 16 ml | CC1=CC=C(C=C1)C(C)=O | C9H10O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-chloro-2-(4-methylphenyl)-4-quinolinecarboxylic acid | 31.6 g | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)C)C(=O)O | C17H12ClNO2
